US06225306B1
(2R,11aR)-2-(tert-Butyldimethylsilyloxy) 10-[4-[(2-Phenylbenzoyl) Amino]Benzoyl]-1,2,3,10,11,11a-Hexahydro-5H-Pyrrolo [2,1-c][1,4]Benzodiazepin-5-One
The same procedures used in Example 25 were repeated using (2R, 11aR)-2-(tert-butyldimethylsilyloxy)-1,2,3,10,11,11a-hexahydro-5H-pyrrolo [2,1-c][1,4]benzodiazepin-5-one prepared in Reference Example 27 and 4-[(2-phenylbenzoyl)amino]benzoic acid to thus give the title compound.

reactant | (2R, 11aR)-2-(tert-butyldimethylsilyloxy)-1,2,3,10,11,11a-hexahydro-5H-pyrrolo [2,1-c][1,4]benzodiazepin-5-one | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H]2CNC3=C(C(N2C1)=O)C=CC=C3 | C18H28N2O2Si
reactant | 4-[(2-phenylbenzoyl)amino]benzoic acid | C1(=CC=CC=C1)C1=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC=C1 | C20H15NO3
product | (2R,11aR)-2-(tert-Butyldimethylsilyloxy) 10-[4-[(2-Phenylbenzoyl) Amino]Benzoyl]-1,2,3,10,11,11a-Hexahydro-5H-Pyrrolo [2,1-c][1,4]Benzodiazepin-5-One | Yield 95.2% | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H]2CN(C3=C(C(N2C1)=O)C=CC=C3)C(C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C3=CC=CC=C3)=O)=O | C38H41N3O4Si
